Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fevers, chills and worsening cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year-old male with PMH of asthma and OSA (not on CPAP,
controlled with mouth device) who presents with 3 days of
worsening cough, fever, chills, and myalgias. Patient reports
that 4 days prior to admission, developed slight cough that then
got worse the following day and has been getting progressively
worse since. Initially non-productive but with chest congestion,
and then this AM was productive of yellow sputum. The day prior
to admission, he then developed subjective fever, chills,
headache, SOB, diffuse abd pain. He denies hemoptysis, night
sweats, rhinorrhea, nasal congestion, nausea, vomiting, 
diarrhea,
urinary symptoms. He reports poor PO intake over the past few
days. Denies sick contacts or recent travel. He has been using
his albuterol inhaler every 4h for the past 3 days.

In the ED:

Initial vital signs were notable for:
T 98.8F, HR 105, BP 108/57, RR 20, 93% RA

Exam notable for:
Gen: ill appearing, uncomfortable lying in bed, shivering
HEENT: MMM
CV: RRR
LUNGS: rhonchi bilaterally, wheezing bilaterally 
GI: NDNT, BS+ all 4 quadrants 

Labs were notable for:
No leukocytosis
Flu A positive
Urine legionella negative

Studies performed include:
Peak flow: 190 (pre) --> 226 (post)
CXR - Mild left base atelectasis without focal consolidation
seen.

Patient was given:
___ 00:01POAcetaminophen 650 mg
___ 00:01IHAlbuterol 0.083% Neb Soln 1 NEB
___ 00:25POPredniSONE 40 mg
___ 00:27IHAlbuterol 0.083% Neb Soln 1 NEB
___ 01:06IHAlbuterol 0.083% Neb Soln 1 NEB
___ 01:58IVMagnesium Sulfate 2 gm
___ 02:20PO/NGOSELTAMivir 75 mg
___ 02:32IVCefTRIAXone1 gm
___ 03:32IVAzithromycin 500 mg
___ 08:17NEBIpratropium-Albuterol Neb 1 NEB
___ 08:17IHTiotropium Bromide 1 CAP
___ 11:56PO/NGOSELTAMivir 75 mg
___ 13:37NEBIpratropium-Albuterol Neb 1 NEB

Consults:
None

Vitals on transfer:
T 100.0F,  BP 121/73, HR 94, RR 18, SpO2 93% on 4L NC

Upon arrival to the floor, the patient endorses the above
history. He is still complaining of cough and chest congestion.
Reports that his breathing is comfortable and he is not 
currently
SOB. Denies current HA. Still still mild abdominal pain, no BM
for the past few days.

REVIEW OF SYSTEMS:
Complete ROS obtained and is otherwise negative.
 
Past Medical History:
Asthma
OSA
HLD
Gout
OA
BPH
Psoriasis
Glaucoma
Hx TB (treated)
 
Social History:
___
Family History:
Positive for CAD, diabetes, hypertension, stroke, colon cancer
and breast cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
================================
VITALS: 24 HR Data (last updated ___ @ ___)
    Temp: 100.0 (Tm 100.0), BP: 121/73, HR: 94, RR: 18, O2 sat:
93%, O2 delivery: 4L, Wt: 195.9 lb/88.86 kg  
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Speaking full sentences, comfortable on NC without
accessory muscle use. Diffuse rhonchi and scattered wheezes b/l.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. 
NEUROLOGIC: AOx3. Moving all extremities spontaneously.

DISCHARGE PHYSICAL EXAM:
================================
___ 0738 Temp: 98.4 PO BP: 126/77 HR: 75 RR: 18 O2 sat:
92% O2 delivery: 2L 
GENERAL: Lying in bed, talking comfortably on room air. 
PULM: Bilateral rhonchi throughout both lung fields. O2 sat
unchanged on room air, to 89% when walking. 
GI: abdomen soft, nondistended, nontender in all quadrants, with
normal bowel sounds
NEURO: Alert, face symmetric
 
Pertinent Results:
ADMISSION LABS
===================================
___ 01:20AM OTHER BODY FLUID  FluAPCR-POSITIVE* 
FluBPCR-NEGATIVE
___ 11:33PM   GLUCOSE-116* UREA N-14 CREAT-1.0 SODIUM-137 
POTASSIUM-4.2 CHLORIDE-104 TOTAL CO2-19* ANION GAP-14
___ 11:33PM   WBC-6.9 RBC-4.52* HGB-13.2* HCT-39.7* MCV-88 
MCH-29.2 MCHC-33.2 RDW-15.2 RDWSD-48.6*
___ 11:33PM   NEUTS-85.5* LYMPHS-7.4* MONOS-6.0 EOS-0.3* 
BASOS-0.4 IM ___ AbsNeut-5.88 AbsLymp-0.51* AbsMono-0.41 
AbsEos-0.02* AbsBaso-0.03
___ 11:33PM   PLT COUNT-163

IMAGING
===================================
___ CXR
IMPRESSION: 
Mild left base atelectasis without focal consolidation seen.

OTHER PERTINENT LABS
===================================
___ BLOOD CULTURES: No growth to date

DISCHARGE LABS
===================================
___ 06:55AM BLOOD WBC-8.6 RBC-4.66 Hgb-13.4* Hct-41.6 
MCV-89 MCH-28.8 MCHC-32.2 RDW-15.7* RDWSD-51.0* Plt ___
___ 06:55AM BLOOD Plt ___
___ 06:55AM BLOOD UreaN-19 Creat-1.0 Na-144 K-3.8 Cl-111* 
HCO3-20* AnGap-13
___ 06:55AM BLOOD Calcium-9.4 Phos-3.1 Mg-2.___ year old male with PMH of asthma and OSA (not on CPAP, 
controlled with
mouth device) who presents with 3 days of worsening cough, 
fever, chills, and myalgias found to be Flu A positive 
complicated by asthma exacerbation on Tamiflu and prednisone.

====================
ACUTE/ACTIVE ISSUES:
====================

# Influenza
# Asthma exacerbation
Patient presenting with 3 days of nonproductive cough, fever, 
chills, headaches, abdominal pain, myalgias. He had rhonchi and 
wheezing on exam with an oxygen requirement up to 4L. He was 
also febrile to 102.8F in the ED and found to be Flu A positive. 
His blood cultures from ___ with no growth to date. He had no 
leukocytosis and CXR without any focal consolidation. Peak flow 
190 (pre) --> 226 (post), indicative of asthma exacerbation. He 
received a dose of ceftriaxone/azithromycin in the ED, which was 
discontinued given no consolidation on CXR. He was started on 
Tamiflu for a 5 day course (___), prednisone 40mg for 5 day 
burst and 5 day taper ___ at 40mg QD, 30mg on ___, 
20mg on ___, 10mg on ___ and 5mg on ___. He was also 
continued on montelukast, tiotropium and albuterol nebs.

Curiously, review of his previous PFTs shows that they have 
always been normal. He is also on max outpatient therapy with 
seemingly no change in his symptoms, though this is his first 
time being admitted. His IgE levels (checked in preparation for 
possible biologics) were normal as well. He was weaned off 
oxygen prior to discharge and his ambulatory sats were normal. 
Please consider a methacholine challenge prior to starting 
biologics.

======================
CHRONIC/STABLE ISSUES:
======================

# OSA
Not on CPAP at home, uses mouth device. Continued home 
Acetazolamide 250 mg PO QHS 

# HLD
Continued home Atorvastatin 40 mg PO QPM 

# Glaucoma
Continued home Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP LEFT 
EYE BID 

# Psoriasis
Continued home Betamethasone Dipro 0.05% Lot. 1 Appl TP QHS 

====================
TRANSITIONAL ISSUES:
====================

[ ] Please consider methacholine challenge as an outpatient 
given 
[ ] Please continue Tamiflu for a ___
[ ] Please continue steroids to finish a 5 day burst and 5 day 
taper fot a total of 10 days (___)

==========================================
CODE STATUS: FULL CODE
CONTACT: ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Betamethasone Dipro 0.05% Lot. 1 Appl TP QHS 
2. Tiotropium Bromide 1 CAP IH DAILY 
3. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP LEFT EYE BID 
4. Montelukast 10 mg PO DAILY 
5. Atorvastatin 40 mg PO QPM 
6. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation 2 puffs BID 
7. AcetaZOLamide 250 mg PO QHS 
8. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN severe asthma 
9. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing/SOB 

 
Discharge Medications:
1.  OSELTAMivir 75 mg PO BID 
RX *oseltamivir 75 mg 1 capsule(s) by mouth twice a day Disp #*7 
Capsule Refills:*0 
2.  PredniSONE 40 mg PO DAILY Duration: 3 Doses 
Start: Tomorrow - ___, First Dose: First Routine 
Administration Time 
This is dose # 1 of 5 tapered doses
RX *prednisone 10 mg AS DIR tablet(s) by mouth Daily Disp #*22 
Tablet Refills:*0 
3.  PredniSONE 30 mg PO DAILY Duration: 2 Doses 
Start: After 40 mg DAILY tapered dose 
This is dose # 2 of 5 tapered doses 
4.  PredniSONE 20 mg PO DAILY Duration: 1 Dose 
This is dose # 3 of 5 tapered doses 
5.  PredniSONE 10 mg PO DAILY Duration: 1 Dose 
Start: After 20 mg DAILY tapered dose 
This is dose # 4 of 5 tapered doses 
6.  PredniSONE 5 mg PO DAILY Duration: 1 Dose 
Start: After 10 mg DAILY tapered dose 
This is dose # 5 of 5 tapered doses 
7.  AcetaZOLamide 250 mg PO QHS  
8.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN severe asthma  
9.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing/SOB  
10.  Atorvastatin 40 mg PO QPM  
11.  Betamethasone Dipro 0.05% Lot. 1 Appl TP QHS  
12.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP LEFT EYE BID  
13.  Montelukast 10 mg PO DAILY  
14.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation 2 PUFFS BID  
15.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Influenza
- Asthma exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You came to the hospital because you had fevers, chills, 
muscle aches and worsening cough. You were positive for 
influenza. We also think you had an asthma exacerbation likely 
due to your flu.

What did you receive in the hospital?
- We started you on Tamiflu to treat the flu. 
- We also started you on prednisone for your asthma 
exacerbation.

What should you do once you leave the hospital?
- Please take tamiflu 75mg twice a day. Last day is ___.
- Please take prednisone 40mg daily till ___ then 30mg on 
___, then 20mg on ___, 10mg on ___ and 5mg on ___.
- Please follow-up with your doctors as below.

We wish you all the ___!

Your ___ Care Team
 
Followup Instructions:
___